US06251926B1
A mixture of 5-(chloromethyl)-3-phenylisoxazole (238 mg), methyl E-4-(4-hydroxybenzyloxyimino)-4-phenylbutyrate (350 mg), potassium carbonate (310 mg) and N,N-dimethylformamide (10 ml) was stirred at room temperature for 13 hours. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain methyl E-4-phenyl-4-[4-(3-phenyl-5-isoxazolylmethoxy)benzyloxyimino]butyrate (358 mg, yield 62%) as a colorless oil from an ethyl acetate-hexane (1:4, v/v)-eluted fraction.

reactant | 5-(chloromethyl)-3-phenylisoxazole | 238 mg | ClCC1=CC(=NO1)C1=CC=CC=C1 | C10H8ClNO
reactant | methyl E-4-(4-hydroxybenzyloxyimino)-4-phenylbutyrate | 350 mg | OC1=CC=C(CO\N=C(/CCC(=O)OC)\C2=CC=CC=C2)C=C1 | C18H19NO4
reactant | potassium carbonate | 310 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | Water | O | H2O
product | methyl E-4-phenyl-4-[4-(3-phenyl-5-isoxazolylmethoxy)benzyloxyimino]butyrate | 358 mg, yield 62% | C1(=CC=CC=C1)/C(/CCC(=O)OC)=N/OCC1=CC=C(C=C1)OCC1=CC(=NO1)C1=CC=CC=C1 | C28H26N2O5
